US09227972B2
Step B: (3S)-3-(3-(6-Methyl-2-oxo-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)piperidin-3-yl)prop-1-en-1-yl)-5,7-dihydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one
HCl gas was bubbled into a solution of (3′S)-3-(3-(6-methyl-2-oxo-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)piperidin-3-yl)prop-1-en-1-yl)-1′-((2-(trimethylsilyl)ethoxy)methyl)-5,7-dihydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one (0.091 g, 0.125 mmol) in MeOH (5 mL) cooled to 0° C. until saturated. The resulting mixture was stirred at 0° C. for 1 h and then concentrated to dryness in vacuo. To a solution of this crude mixture in MeOH (5 mL) was added ammonium hydroxide (0.27 mL, 1.99 mmol), and the reaction was stirred at ambient temperature for 30 min. The reaction was concentrated to dryness in vacuo. The crude product was purified by reverse-phase HPLC, eluting with 5% acetonitrile in water (0.1% TFA used as a modifier) initially, grading to 85% acetonitrile in water, to give the title compound as a mixture of ca. 1 major and 2 minor compounds (pairs of enantiomers). MS: m/z=601.2 (M+1). Major diastereoisomer: 1H NMR (500 MHz, CDCl3) δ 8.51 (s, 1H), 8.15 (dd, 1H, J=5.7, 1.4 Hz), 7.90 (s, 1H), 7.42 (dd, 1H, J=7.4, 1.4 Hz), 7.06 (dd, 1H, J=7.4, 5.7 Hz), 6.94-6.90 (m, 1H), 6.72-6.70 (m, 1H), 6.49-6.46 (m, 1H), 4.90-4.78 (m, 1H), 4.00-3.90 (m, 2H), 3.90-3.75 (m, 2H), 3.75-3.60 (m, 1H), 3.55 (d, 1H, J=17.5 Hz), 3.40-3.20 (m, 2H), 2.92-2.80 (m, 2H), 2.78-2.68 (m, 1H), 2.55 (dt, 1H, J=13.7, 4.1 Hz), 1.86 (bd, 1H, J=13.7 Hz), 1.08 (d, 3H, J=6.6 Hz).

reactant | HCl | Cl | ClH
reactant | (3′S)-3-(3-(6-methyl-2-oxo-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)piperidin-3-yl)prop-1-en-1-yl)-1′-((2-(trimethylsilyl)ethoxy)methyl)-5,7-dihydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | 0.125 mmol, 0.091 g | CC1C(CC(C(N1CC(F)(F)F)=O)CC=CC=1C=C2C(=NC1)C[C@@]1(C(N(C3=NC=CC=C31)COCC[Si](C)(C)C)=O)C2)C2=C(C(=CC(=C2)F)F)F | C37H40F6N4O3Si
reactant | ammonium hydroxide | 1.99 mmol, 0.27 mL | [OH-].[NH4+]
solvent | MeOH | 5 mL | CO | CH4O
solvent | MeOH | 5 mL | CO | CH4O
product | (3S)-3-(3-(6-Methyl-2-oxo-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)piperidin-3-yl)prop-1-en-1-yl)-5,7-dihydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | CC1C(C[C@@H](C(N1CC(F)(F)F)=O)CC=CC=1C=C2C(=NC1)CC1(C(NC3=NC=CC=C31)=O)C2)C2=C(C(=CC(=C2)F)F)F | C31H26F6N4O2
